US07622469B2
2-Amino-4-octylamino-1-(3-quinolyl)-1,6-dihydro-6,6-dimethyl-1,3,5-triazine dihydrochloride
150 ml of methanol, 120 ml of acetone and 0.5 ml of concentrated hydrochloric acid were added to 7.0 g (18.6 mmol) of N1-(3-quinolyl)-N5-octyl-biguanide dihydrochloride. The mixture was refluxed for 26 hours, and 1.8 ml of concentrated hydrochloric acid was further added thereto. The mixture was refluxed for 22 hours, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (elution with a mixture of chloroform and methanol (9:1)) to obtain 5.3 g of a pale yellow powder.

reactant | methanol | 150 ml | CO | CH4O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
reactant | N1-(3-quinolyl)-N5-octyl-biguanide dihydrochloride | 18.6 mmol, 7.0 g | Cl.Cl.N1=CC(=CC2=CC=CC=C12)NC(=N)NC(=N)NCCCCCCCC
reactant | hydrochloric acid | 1.8 ml | Cl | ClH
reactant | acetone | 120 ml | CC(=O)C | C3H6O
product | 2-Amino-4-octylamino-1-(3-quinolyl)-1,6-dihydro-6,6-dimethyl-1,3,5-triazine dihydrochloride | 5.3 g | Cl.Cl.NC=1N(C(N=C(N1)NCCCCCCCC)(C)C)C=1C=NC2=CC=CC=C2C1 | InChI=1S/C22H32N6.2ClH/c1-4-5-6-7-8-11-14-24-21-26-20(23)28(22(2,3)27-21)18-15-17-12-9-10-13-19(17)25-16-18;;/h9-10,12-13,15-16H,4-8,11,14H2,1-3H3,(H3,23,24,26,27);2*1H
